US04618610
A mixture of 2'-hydroxypropiophenone (25.8 g), benzyl chloride (21.8 g), sodium iodide (2.6 g), potassium carbonate (23.8 g) and dry dimethylformamide (260 ml) was heated with stirring at 80° C. for 23 hours. The mixture was cooled and filtered and the filtrate was concentrated under reduced pressure. The residue was extracted with ether and the extract was washed with water, 1N aqueous sodium hydroxide, water, 10% hydrochloric acid, aqueous sodium hydrogen carbonate and aqueous sodium chloride in that order, dried, and concentrated to dryness to give 2'-benzyloxypropiophenone (37.9 g) as an oil.

reactant | 2'-hydroxypropiophenone | 25.8 g | OC1=C(C=CC=C1)C(CC)=O | C9H10O2
reactant | benzyl chloride | 21.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium iodide | 2.6 g | [I-].[Na+]
reactant | potassium carbonate | 23.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 260 ml | CN(C=O)C | C3H7NO
product | 2'-benzyloxypropiophenone | 37.9 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(CC)=O | C16H16O2
